US05466691
A mixture of 2-acetylaminomethyl-5-(4-chlorobutyryl)thiophene (3 g), 1-(3-trifluoromethylphenyl)piperazine hydrobromide (4 g), potassium carbonate (3.5 g), potassium iodide (2 g), dimethylformamide (25 ml), and toluene (25 ml) was stirred at 60° C. for 7 hours. The reaction mixture was poured into water, extracted with toluene, and dried over magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography, and converted to fumarate, followed by recrystallization from acetone to give 0.9 g of 1-(4-(5-acetylaminomethyl -2-thienyl)-4-oxobutyl)-4-(3-trifluoromethylphenyl)piperazine fumarate as white crystals, m.p. 135°-137° C.

reactant | 2-acetylaminomethyl-5-(4-chlorobutyryl)thiophene | 3 g | C(C)(=O)NCC=1SC(=CC1)C(CCCCl)=O | C11H14ClNO2S
reactant | 1-(3-trifluoromethylphenyl)piperazine hydrobromide | 4 g | Br.FC(C=1C=C(C=CC1)N1CCNCC1)(F)F
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | water | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-(4-(5-acetylaminomethyl -2-thienyl)-4-oxobutyl)-4-(3-trifluoromethylphenyl)piperazine fumarate | 0.9 g | C(\C=C\C(=O)O)(=O)O.C(C)(=O)NCC1=CC=C(S1)C(CCCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | InChI=1S/C22H26F3N3O2S.C4H4O4/c1-16(29)26-15-19-7-8-21(31-19)20(30)6-3-9-27-10-12-28(13-11-27)18-5-2-4-17(14-18)22(23,24)25;5-3(6)1-2-4(7)8/h2,4-5,7-8,14H,3,6,9-13,15H2,1H3,(H,26,29);1-2H,(H,5,6)(H,7,8)/b;2-1+
